US07872014B2
A solution of fuming nitric acid (55 mL) and concentrated sulfuric acid (11 mL) was cooled to −5° C. Powdered methyl 2-[(2-bromoethyl)oxy]-3-[(phenylcarbonyl)oxy]benzoate (30 g, 79.1 mmol) was slowly added over a period of 30 min. After an additional stirring time of 30 min., the reaction mixture was quickly poured over ice, which was then extracted with dichloromethane (2×400 mL). The combined organic layers were washed with water (400 mL) and aqueous saturated sodium bicarbonate (200 mL). The organic solution was washed with brine, dried over anhydrous magnesium sulfate and concentrated. The crude precipitate was triturated with diethyl ether (200 mL) to give 29.1 g (87%) of methyl 2-[(2-bromoethyl)oxy]-5-nitro-3-[(phenylcarbonyl)oxy]benzoate as an off-white powder: 1H NMR (400 MHz, CDCl3): 9.06 (t, J=2.2 Hz, 1H), 8.72 (d, J=3.2 Hz, 1H), 8.57-8.53 (m, 3H), 8.32 (d, J=3.2 Hz, 1H), 7.79 (t, J=8.0 H, 1H), 4.43 (t, J=5.8 Hz, 2H), 4.00 (s, 3H), 3.57 (t, J=5.6 Hz, 2H).

reactant | nitric acid | 55 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 11 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl 2-[(2-bromoethyl)oxy]-3-[(phenylcarbonyl)oxy]benzoate | 79.1 mmol, 30 g | BrCCOC1=C(C(=O)OC)C=CC=C1OC(=O)C1=CC=CC=C1 | C17H15BrO5
product | methyl 2-[(2-bromoethyl)oxy]-5-nitro-3-[(phenylcarbonyl)oxy]benzoate | 29.1 g, 87% | BrCCOC1=C(C(=O)OC)C=C(C=C1OC(=O)C1=CC=CC=C1)[N+](=O)[O-] | C17H14BrNO7
